US04416820
In 80% acetic acid (20 ml) was suspended Tr-Trp(Tos)-OBzl (1.3 g, 1.88 mM) and the mixture was stirred at room temperature for one hour, whereby the material was dissolved. The precipitated triphenylmethanol was filtered off and the filtrate was subjected to catalytic reduction for 4 hours in the presence of palladium black at room temperature. The catalyst was filtered off and the acetic acid was distilled off. The residue was recrystallized from water to give H-Trp(Tos)-OH. Yield 585 mg (86.9%); m.p. 227° C. (decomp.); [α]D21 -29.2° (c=0.5, acetic acid).

reactant | Trp(Tos)-OBzl | 1.88 mM, 1.3 g | N[C@@H](CC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)OCC1=CC=CC=C1 | C25H24N2O4S
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | H-Trp(Tos)-OH | N[C@@H](CC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)O | C18H18N2O4S
